US05536701
5-Methoxy-2-(tetrahydro-2H-pyran-2-yl)-3(2H)-pyridazinone (2035 g, 9.69 moles) and 2 L of methanol were added to a 22 L round bottomed flask equipped with a heating mantle, reflux condenser and mechanical stirrer. The mixture was warmed to 35° C. and 8 L of 6 N HCl was added and then the mixture was heated to reflux for 2 h. The reaction mixture was then cooled slightly and transferred to a glycol cooled 22 L flask where the mixture was cooled further to 30° C. The mixture was made basic (pH 13-14) by cautious addition of 50% NaOH in portions. The basic mixture was extracted with CH2Cl2 (4×3 L). The aqueous phase was then acidified with concentrated HCl (pH 1-2) to precipitate the product. The product was collected by vacuum filtration on a Buchner funnel. The product was dried to constant weight on a fluid bed dryer at 70° C. This afforded 798 g (65% yield) of 3-hydroxy-5-methoxypyridazine as a white solid which was recrystallized from methanol, mp=253°-255° C.

reactant | 5-Methoxy-2-(tetrahydro-2H-pyran-2-yl)-3(2H)-pyridazinone | 9.69 moles, 2035 g | COC1=CC(N(N=C1)C1OCCCC1)=O | C10H14N2O3
reactant | HCl | 6 N, 8 L | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | methanol | CO | CH4O
solvent | methanol | 2 L | CO | CH4O
product | 3-hydroxy-5-methoxypyridazine | 798 g, 65% yield | OC=1N=NC=C(C1)OC | C5H6N2O2
